M1 n1 vinp ntail 0 nch W=2u L=0.18u
M2 n2 vinn ntail 0 nch W=2u L=0.18u
M3 n3 vb_ncasc n1 0 nch W=1u L=0.18u
M4 n4 vb_ncasc n2 0 nch W=1u L=0.18u
M9 ntail vbias_n 0 0 nch W=1u L=0.5u
M5 n5 vb_pcasc n3 VDD pch W=2u L=0.18u
M6 vout vb_pcasc n4 VDD pch W=2u L=0.18u
M7 n5 n5 VDD VDD pch W=4u L=0.18u
M8 vout n5 VDD VDD pch W=4u L=0.18u
VDD VDD 0 1.8
Cload vout 0 1p


