C66414264 vop 0 1p
M689728806 N003 vb2 vop VDD PMOS l=0.18u w=4u
M346325795 VDD N001 N003 VDD PMOS l=0.18u w=4u
M240247240 VDD N001 N002 VDD PMOS l=0.18u w=4u
M81078337 N002 vb2 N001 VDD PMOS l=0.18u w=4u
M716029312 N001 vb3 N004 0 NMOS l=0.18u w=2u
M385642217 vop vb3 N005 0 NMOS l=0.18u w=2u
M142392364 N005 vin N006 0 NMOS l=0.18u w=2u
M152457037 N004 vip N006 0 NMOS l=0.18u w=2u
M608374904 N006 vtail 0 0 NMOS l=0.18u w=2u
VDD VDD 0 1.8